US07713993B2
(2) Synthesis of 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid hydrazide dihydrochloride
A solution of 4 N hydrochloric acid in ethyl acetate (1 mL) was added to a solution of tert-butyl N′-{5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}pentanoyl}hydrazinecarboxylate (222 mg) in ethyl acetate (1 mL), and the reaction solution was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure to obtain 208 mg of the title compound. The property values of the compound are as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl N′-{5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}pentanoyl}hydrazinecarboxylate | 222 mg | ClCCC\C(\C(=O)NNC(=O)OC(C)(C)C)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C22H29ClN4O4
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}valeric acid hydrazide dihydrochloride | 208 mg | Cl.Cl.ClCCC\C(\C(=O)NN)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | InChI=1S/C17H21ClN4O2.2ClH/c1-12-10-22(11-20-12)15-6-5-13(9-16(15)24-2)8-14(4-3-7-18)17(23)21-19;;/h5-6,8-11H,3-4,7,19H2,1-2H3,(H,21,23);2*1H/b14-8+;;
